US04599357
The starting material is prepared as follows: To 2.7 g of indoline-2-carboxylic acid ethyl ester and 3.4 g of powdered potassium carbonate in 30 ml of methylene chloride, 2.42 g of 2-bromopropanoyl chloride in 10 ml of methylene chloride are added during 2 minutes. The mixture is stirred at room temperature for 2 hours and then partitioned between 50 ml of water and 100 ml of diethyl ether. The organic layer is washed twice with 30 ml of 1N hydrochloric acid and 25 ml of saturated aqueous sodium chloride, dried and evaporated, to yield the 1-(2-bromopropanoyl)-indoline-2-carboxylic acid ethyl ester melting at 101°-103°.

reactant | indoline-2-carboxylic acid ethyl ester | 2.7 g | C(C)OC(=O)C1NC2=CC=CC=C2C1 | C11H13NO2
reactant | potassium carbonate | 3.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromopropanoyl chloride | 2.42 g | BrC(C(=O)Cl)C | C3H4BrClO
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-bromopropanoyl)-indoline-2-carboxylic acid ethyl ester | C(C)OC(=O)C1N(C2=CC=CC=C2C1)C(C(C)Br)=O | C14H16BrNO3
